US06803378B2
N-benzyl-N-phenethyl-acetamide
N-benzyl-2-phenethylamine (2.2 g, 10 mmol) was dissolved in 7 mL of CH2Cl2. To this was added 7 mL of satd (aq.) NaHCO3 followed by acetyl chloride (0.88 g, 11 mmol) and the resulting mixture stirred for 40 min. The organic layer was separated, dried over Na2SO4 filtered and the solvent removed to yield 2.60 g (100%) oil. LC/MS (M+H) calcd for C17H20NO: 254.15; found: 254.07. 1H NMR and 13C NMR show a mixture of rotamers at room temperature. 1H NMR (500 MHz, CDCl3), δ: 2.04 (br s), 2.14 (br s), 2.81 (br m), 2.87 (br m), 3.44 (br m), 3.58 (br m), 4.36 (s), 4.62 (s), 7.11-7.36 (overlapping m, 10). 13C NMR (125 MHz, CDCl3) δ: 21.19, 21.80, 33.99, 34.87, 48.18, 48.28, 49.49, 52.75, 126.34, 126.81, 127.44, 127.65, 128.18, 128.52, 128.64, 128.73, 128.80, 128.85, 128.94, 136.74, 137.56, 138.17, 139.24, 170.81, 171.07.

reactant | N-benzyl-2-phenethylamine | 10 mmol, 2.2 g | C1=CC=C(C=C1)CCNCC2=CC=CC=C2 | C15H17N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetyl chloride | 11 mmol, 0.88 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-phenethyl-acetamide | 2.60 g, 100% | C(C1=CC=CC=C1)N(C(C)=O)CCC1=CC=CC=C1 | C17H19NO
